US05753664
2-[4-(4-Chlorobenzoyl)benzyl]thio-1,7-dimethyl-7H-pyrrolo [2,3-d]pyrimidin-4-one
Under argon gas, 2-[4-(4-chlorobenzoyl) benzyl]thio-1-methyl-7H-pyrrolo(2,3-d]pyrimidin-4-one (103 mg) was dissolved in anhydrous DMSO (20 ml) with warming. Then, at room temperature, 60% sodium hydride-oil (11 mg) was added and the mixture was stirred for 20 minutes. Then, methyl iodide (42.6 mg) was added and the mixture was further stirred overnight. The reaction mixture was diluted with water (200 ml) and the resulting precipitate was collected by filtration, dried, and purified by flash column chromatography (silica gel; chloroform-ethanol: chloroform=1:49) to provide the title compound (47 mg).

reactant | 2-[4-(4-chlorobenzoyl) benzyl]thio-1-methyl-7H-pyrrolo(2,3-d]pyrimidin-4-one | 103 mg | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC(C4=C(N3C)NC=C4)=O)C=C2)C=C1 | C21H16ClN3O2S
reactant | sodium hydride | 11 mg | [H-].[Na+]
reactant | methyl iodide | 42.6 mg | CI | CH3I
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 2-[4-(4-Chlorobenzoyl)benzyl]thio-1,7-dimethyl-7H-pyrrolo [2,3-d]pyrimidin-4-one | 47 mg | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC(C4=C(N3C)N(C=C4)C)=O)C=C2)C=C1 | C22H18ClN3O2S
